US04423047
2-(2,3-Epoxypropyl)sulfinyl-5-chloropyrimidine
A mixture of 35% H2O2 (1.9 mmol) and SeO2 (1.9 mmol) in water (1.5 ml H2O) was added to a solution of 2-(2,3-epoxypropyl)thio-5-chloropyrimidine (1.9 mmol) in methanol (7 ml). The mixture was stirred at room temperature for 4 h before saturated NaCl aq. (30 ml) was added and the mixture extracted with chloroform (3×15 ml). The dried (MgSO4) chloroform solution was evaporated and the residue purified by preparative TLC on silica gel using CHCl3 : EtOH (95:5); yield 24%, m.p. 92° C. 1H NMR (CDCl3): δ2.4-3.6 (5H, m), 8.84 (H-4, H-6). IR (KBr): 1050 cm-1 (SO).

reactant | H2O2 | 1.9 mmol | OO | H2O2
reactant | 2-(2,3-epoxypropyl)thio-5-chloropyrimidine | 1.9 mmol | O1C(CSC2=NC=C(C=N2)Cl)C1 | C7H7ClN2OS
reactant | NaCl | 30 ml | [Na+].[Cl-]
solvent | water | 1.5 ml | O | H2O
solvent | methanol | 7 ml | CO | CH4O
product | 2-(2,3-Epoxypropyl)sulfinyl-5-chloropyrimidine | yield 24% | O1C(CS(=O)C2=NC=C(C=N2)Cl)C1 | C7H7ClN2O2S
